US07754737B2
To a solution of 1-(3-amino-2-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)-propyl)cyclohexanol (21 mg, 0.064 mmol) in CH2Cl2 (2 mL) were added Et3N (0.2 mL) and Me3SiCl (13.9 mg, 16 μL, 0.13 mmol). The resulting solution was stirred for 1 h and evaporated under vacuum. The residue was dissolved in CH2Cl2 (2 mL) and pyridine (0.05 mL) was added, followed by 4-nitrophenyl chloroformate (15 mg, 0.077 mmol). The mixture was stirred for 30 min to afford a solution of 1-(2-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)-3-(p-nitrophenoxycarbonylamino)propyl)-1-(trimethylsilyloxy)cyclohexane which was used directly without isolation.

reactant | 1-(3-amino-2-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)-propyl)cyclohexanol | 0.064 mmol, 21 mg | NCC(CC1(CCCCC1)O)N(C(=O)OCC[Si](C)(C)C)C | C16H34N2O3Si
reactant | Et3N | 0.2 mL | CCN(CC)CC | C6H15N
reactant | Me3SiCl | 0.13 mmol, 16 μL, 13.9 mg | [Si](C)(C)(C)Cl | C3H9ClSi
reactant | 4-nitrophenyl chloroformate | 0.077 mmol, 15 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)-3-(p-nitrophenoxycarbonylamino)propyl)-1-(trimethylsilyloxy)cyclohexane | CN(C(=O)OCC[Si](C)(C)C)C(CC1(CCCCC1)O[Si](C)(C)C)CNC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C26H45N3O7Si2
